US06008230
To a solution of 4-(tert-butyldiphenylsilyloxymethyl)-8-(2,6-dichlorobenzoylamino)-3-(methoxymethyl)quinoline (359 mg) in tetrahydrofuran was added 1M solution of tetrabutylammonium fluoride in tetrahydrofuran (0.684 ml) at ambient temperature, and the mixture was stirred for 1 hour at the same temperature. The mixture was partitioned between water and ethyl acetate, and the organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was crystallized from isopropyl alcohol to give 8-(2,6-dichlorobenzoylamino)-4-hydroxymethyl-3-(methoxymethyl)quinoline (186 mg).

reactant | 4-(tert-butyldiphenylsilyloxymethyl)-8-(2,6-dichlorobenzoylamino)-3-(methoxymethyl)quinoline | 359 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)COC | C35H34Cl2N2O3Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.684 ml | O1CCCC1 | C4H8O
product | 8-(2,6-dichlorobenzoylamino)-4-hydroxymethyl-3-(methoxymethyl)quinoline | 186 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=C(C=NC23)COC)CO)C(=CC=C1)Cl | C19H16Cl2N2O3
